US08049015B2
2-Bromo-5-(trifluoromethyl)benzaldehyde (3 g, 11.9 mmol), benzylamine (1.94 mL, 17.8 mmol), and sodium cyanoborohydride (1.12 g, 17.8 mmol) were combined in MeOH (30 mL). Acetic acid (1.02 mL, 17.8 mmol) was added, and the reaction was stirred at room temperature for 2 hours. The mixture was concentrated, and the residue was partitioned between CH2Cl2 and H2O. The aqueous layer was separated and extracted twice with CH2Cl2, and the combined organic layers were dried, concentrated, and purified by silica gel chromatography (10-40% EtOAc in hexanes) to give benzyl-(2-bromo-5-trifluoromethyl-benzyl)-amine.

reactant | 2-Bromo-5-(trifluoromethyl)benzaldehyde | 11.9 mmol, 3 g | BrC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4BrF3O
reactant | benzylamine | 17.8 mmol, 1.94 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium cyanoborohydride | 17.8 mmol, 1.12 g | C(#N)[BH3-].[Na+]
reactant | Acetic acid | 17.8 mmol, 1.02 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 30 mL | CO | CH4O
product | benzyl-(2-bromo-5-trifluoromethyl-benzyl)-amine | C(C1=CC=CC=C1)NCC1=C(C=CC(=C1)C(F)(F)F)Br | C15H13BrF3N
